US05998433
d) Synthesis of 5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine
To a solution of 1.533 g (4.793 mmol) of N-(2-chloroethyl)-N-(3-furylmethyl)-6-phenylhexylamine in 100 ml of tetrahydrofuran, 8.99 ml (14.4 mmol) of 1.6 M n-butyl lithium in hexane was added under ice-cooling, followed by stirring at room temperature for 4 hours. This reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to yield the desired product.

reactant | N-(2-chloroethyl)-N-(3-furylmethyl)-6-phenylhexylamine | 4.793 mmol, 1.533 g | ClCCN(CC1=COC=C1)CCCCCCC1=CC=CC=C1 | C19H26ClNO
reactant | n-butyl lithium | 14.4 mmol, 1.6 M, 8.99 ml | C(CCC)[Li]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C1(=CC=CC=C1)CCCCCCN1CC2=C(CC1)OC=C2 | C19H25NO
